US07425634B2
(4b) 2-(((4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl)thio)-1H-benzimidazole
To a dimethylsulfoxide (10 ml) solution of potassium t-butoxide (262 mg, 2.33 mmol) and 2-mercaptobenzimidazole (349 mg, 2.33 mmol), (4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl acetate (500 mg, 1.55 mmol) was added and the mixture was stirred in a nitrogen atmosphere at 150° C. for 3 hours and 10 minutes. After cooled to room temperature, the reaction mixture was diluted with toluene and washed with a diluted aqueous sodium hydroxide solution and a saturated saline solution, dried over sodium sulfate, and filtrated. The filtrate was concentrated under reduced pressure. The residue was subjected twice to silica gel column chromatography (elution solvent: n-heptane/ethyl acetate=1/1) to obtain the title compound (441 mg, 68.8%) as a white foam.

reactant | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
reactant | potassium t-butoxide | 2.33 mmol, 262 mg | CC(C)([O-])C.[K+]
reactant | 2-mercaptobenzimidazole | 2.33 mmol, 349 mg | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | (4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl acetate | 1.55 mmol, 500 mg | C(C)(=O)OCC1=NC=C(C(=C1C)OCC1COC(OC1)(C)C)C | C17H25NO5
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(((4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl)thio)-1H-benzimidazole | 441 mg, 68.8% | CC1(OCC(CO1)COC1=C(C(=NC=C1C)CSC1=NC2=C(N1)C=CC=C2)C)C | C22H27N3O3S
